US08980911B2
To a stirred solution of (4-amino-2,6-dichlorophenyl)(1H-pyrrolo[3,2-c]pyridin-1-yl)methanone (45 mg, 0.15 mmol) and triethylamine (0.04 mL, 0.29 mmol) in tetrahydrofuran (1 mL), propanoyl chloride (0.014 mL, 0.16 mmol) was added drop wise at 0° C. The resulting reaction mixture was stirred at room temperature for 30 minutes and concentrated under vacuum. The residue was diluted with water, extracted with ethyl acetate (2×20 mL). The combined organic portion was washed with brine, dried over anhydrous sodium sulphate and concentrated on rotary evaporator. The residue was taken up in methanol (2 mL), potassium carbonate (25 mg) was added and stirred at room temperature for 10 minutes, concentrated on a rotary evaporator, diluted with water (10 mL) and extracted with ethyl acetate. The combined organic layer was washed with saturated aqueous sodium bicarbonate solution, water and brine, dried over anhydrous sodium sulphate and concentrated on rotary evaporator. N-[3,5-dichloro-4-(1H-pyrrolo[3,2-c]pyridin-1-ylcarbonyl)phenyl]propanamide (7.4 mg, 14%) was isolated by silica gel column chromatography using dichloromethane and methanol gradient as eluent.

reactant | (4-amino-2,6-dichlorophenyl)(1H-pyrrolo[3,2-c]pyridin-1-yl)methanone | 0.15 mmol, 45 mg | NC1=CC(=C(C(=C1)Cl)C(=O)N1C=CC=2C=NC=CC21)Cl | C14H9Cl2N3O
reactant | triethylamine | 0.29 mmol, 0.04 mL | C(C)N(CC)CC | C6H15N
reactant | propanoyl chloride | 0.16 mmol, 0.014 mL | C(CC)(=O)Cl | C3H5ClO
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-[3,5-dichloro-4-(1H-pyrrolo[3,2-c]pyridin-1-ylcarbonyl)phenyl]propanamide | 7.4 mg, 14% | ClC=1C=C(C=C(C1C(=O)N1C=CC=2C=NC=CC21)Cl)NC(CC)=O | C17H13Cl2N3O2
